US08217065B2
Adamantan-1-yl-{5-[2-(2,6-dichloro-phenyl)-3H -benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine
Combine 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (100 mg, 0.310 mmol) and 1-isothiocyanato-adamantane (78 mg, 0.403 mmol) in DMF (2 mL) and heat to 70° C. for 1 hr. Add EDCI (119 mg, 0.620 mmol) and heat the reaction for 1 hr. Allow the reaction to cool to room temp and dilute with water (10 mL). Collect the resulting precipitate by filtration and purify the solid by reverse-phase HPLC (35-65% ACN/H2O+5 mM NH4OH) to afford the title compound as a white solid: 1H NMR (400 MHz, MeOD) δ ppm 1.74-1.82 (m, 6 H) 2.12 (s, 6 H) 2.15 (br. s., 3 H) 7.55-7.63 (m, 3 H) 7.76 (br. s., 1 H) 7.93 (br. s., 1 H) 8.18 (br. s., 1 H); MS (m/z) 480.1 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.310 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | 1-isothiocyanato-adamantane | 0.403 mmol, 78 mg | N(=C=S)C12CC3CC(CC(C1)C3)C2 | C11H15NS
reactant | EDCI | 0.620 mmol, 119 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | Adamantan-1-yl-{5-[2-(2,6-dichloro-phenyl)-3H -benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine | C12(CC3CC(CC(C1)C3)C2)NC=2OC(=NN2)C2=CC3=C(N=C(N3)C3=C(C=CC=C3Cl)Cl)C=C2 | C25H23Cl2N5O
